US08877744B2
[Bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-6,6-difluoro-5-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine
The compound was prepared in analogy to the preparation of intermediate B10.1 starting from (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (intermediate B9.1) and bis(pinacolato)diboron (CAS 73183-34-3) yielding the title compound to be used in the next step without further purification.

reactant | (R)—N-(bis(4-methoxyphenyl)(phenyl)methyl)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | COC1=CC=C(C=C1)C(NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)Br)F)(F)F)(C)C)(C1=CC=CC=C1)C1=CC=C(C=C1)OC | C35H34BrF3N2O3
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | [Bis-(4-methoxy-phenyl)-phenyl-methyl]-{(R)-6,6-difluoro-5-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-5,7,7-trimethyl-2,5,6,7-tetrahydro-[1,4]oxazepin-3-yl}-amine | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1COC(C([C@@](N1)(C)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)(F)F)(C)C | C41H46BF3N2O5
